Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Optiray 300
 
Attending: ___.
 
Chief Complaint:
Arthralgias, Headache, Nausea/vomiting, Arm redness and pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old woman with hx of asplenia (traumatic), migraines now 
presents to the ED after 3 days of low grade fever, myalgias, 
fatigue and local pain and redness at a site of recent 
immunization injection into L deltoid, HA and increased neck 
stiffness.  
.  
Pt. was in USOH prior to immunizations (intermittent, mild neck 
pain/stiffness after a fall). On ___ she received 4 vaccines 
(pneumococcal, meningococcal, h-flu and influenza) as part of 
asplenia management and sepsis prevention. Over the next day she 
developed a HA (occipital, constant, non-throbbing), neck 
stiffness and pain, as well as myalgias and arthralgias. She 
noted persistent pain at the site of injection and on ___ 
recorded a fever of 101.5F. She developed n/v and difficulty 
keeping down POs. Contacted her PCP, who instructed to take 
tylenol and benadryl. She continued with her symptoms, with 
worsening HA and myalgias, despite tylenol.  
.  
In the ED, initial vs were: 100.1F HR 97 BP 115/58 RR18 100% RA. 
L arm erythema noted, not indurated. Patient was given 
Vancomycin 1g and CFTX 1g and toradol 30mg IV and 1L NS. Lactate 
was nl. She is being admitted for observation given hx of 
asplenia.  
.  
On the floor, VS were 97.9F 108/64 80 18 100% RA. She was c/o of 
persistent HA, neck stiffness, chills and myalgias. She reported 
photophobia. Her current HA is different from her migraines 
(throbbing, frontal, n/v, photo/phonophobia). Although she 
reports intermittent neck pain, this neck stiffness is 
"different" and much more intense.  

 
Past Medical History:
Asplenia (traumatic)  
ACUS  
Acne  
Chlamydia infection  
Migraines  
 
Social History:
___
Family History:
Alzheimer's disease in relatives in their late ___ and ___  
Grandfather - stroke.  
No history of breast cancer, heart disease, 
hypercholesterolemia. 
 
Physical Exam:
Admission Exam:

Vitals: 100.1F HR 97 BP 115/58 RR18 100% RA.  
General: Alert, oriented, appears uncomfortable, closing eyes w/ 
lights turned on.  
HEENT: Sclera anicteric, dMM, oropharynx clear  
Neck: supple, no LAD  
Lungs: Clear to auscultation bilaterally  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Skin: no rashes, no petechiae.  
Left posterior arm erythema, induration, TTP outside of the 
erythema. 

Discharge Exam:

Arm erythema faded, swelling improved, patient still has tender 
3 inchx3 inch area of induration in posterior R arm.
PICC in place.
 
Pertinent Results:
Labs:

___ 07:05PM   WBC-27.4*# RBC-3.92* HGB-12.8 HCT-35.3* 
MCV-90 MCH-32.6* MCHC-36.1* RDW-12.0
___ 07:05PM   NEUTS-94.6* LYMPHS-2.8* MONOS-2.3 EOS-0.1 
BASOS-0.3
___ 07:05PM   PLT COUNT-251
___ 07:05PM   GLUCOSE-174* UREA N-16 CREAT-0.9 SODIUM-131* 
POTASSIUM-3.5 CHLORIDE-97 TOTAL CO2-24 ANION GAP-14
___ 07:15PM URINE  ___ BACTERIA-FEW YEAST-NONE 
___ 07:15PM URINE  BLOOD-LG NITRITE-NEG PROTEIN-25 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 LEUK-SM
___ 07:15PM URINE  UCG-NEGATIVE
___ 07:19PM   LACTATE-1.6

___ Overnight: 
Lumbar Puncture: CSF
Chemistry:  Protein 30    Glucose 91  
WBC 1  RBC  1  Poly 0  Lymph  88    Mono 12    EOs  
Clear And Colorless, opening pressure 30

Imaging:

Arm Non-contrast CT ___: 
1. Skin thickening and subcutaneous soft tissue edema and fluid 
in the 
posterolateral right upper arm is compatible with cellulitis. 
While no 
discrete organized fluid collection is seen, assessment is 
limited due to 
non-contrast technique. No soft tissue gas is seen.  
  
2. While no obvious abnormality is seen in the underlying muscle 
and humerus, myositis or osteomyelitis cannot be excluded on the 
current study. If assessment for fluid collection is necessary, 
ultrasound or MRI would be recommended. If there is concern for 
myositis or osteomyelitis, MRI would provide a more sensitive 
evaluation. 
  
2. Mildly enlarged right axillary nodes have normal morphology, 
probably 
representing hypertrophied reactive nodes. 

Arm U/S ___:  
FINDINGS: Targeted sonography in the right upper arm at the site 
of 
immunization reveals subcutaneous edema, though no fluid 
collection. 
  
IMPRESSION: Subcutaneous edema, without fluid collection. 

Arm U/S ___: 
FINDINGS: Targeted ultrasound of the posterior proximal right 
upper arm the level of the humeral head and diaphysis 
demonstrates no focal fluid 
collections. Mild skin thickening and soft tissue edema are 
seen, improved 
from prior exam.  
  
IMPRESSION: Improved mild subcutaneous edema, without discrete 
fluid 
collections. 

RUQ U/S ___: IMPRESSION: Minimal non-specific gallbladder 
wall thickening. No cholelithiasis and no specific signs for 
acute cholecystitis demonstrated. 

RECORD OF VACCINATIONS ON ___
Pneumococcal vaccine
[x] Not received in the last ___ years
     [x] Vaccine administered today
     
Meningococcal vaccine
[x] Not received in the last ___ years
     [x] Vaccine administered today
          [x] Age ___ or ___:  given Menactra
          
Hemophilus influenza type B vaccine
[x] Never received
     [x] Vaccine administered today IM left lower deltoid 
     
Influenza vaccine
     [x] not given this season
     [x] influenza vaccine given today left upper deltoid 1 inch
apart from HIB vacine.

PENDING RESULTS: Blood cultures ___ and ___ no growth to date 
but still pending.
 

 
Brief Hospital Course:
___ year old woman with hx of asplenia (traumatic), migraines now 
presents to the ED after 3 days of low grade fever, myalgias, 
fatigue and local pain and redness at a site of recent 
immunization injection into L deltoid, HA and increased neck 
stiffness with hyponatremia and leukocytosis.  
.
# Leukocytosis, Hypotension with constellation of symptoms: The 
patient's myalgias, arthralgias and low grade fevers were 
thought to be likely due to an inflammatory reaction to 
receiving vaccinations. Her leukocytosis was slightly 
incongruent was this and was thought to be related to 
cellulitis. Of note, although the patient presented with low 
blood pressures, she was always stable and even after she was 
afebrile had systolics in the ___ and low 100s. LP was done out 
of concern for neck pain with fevers but was negative. C.diff 
was negative and Blood Cultures are negative to date on 
discharge (final pending.) Given concern for infection in the 
setting of asplenia, she was initially treated with Vancomycin, 
Zosyn and Clindamycin per ID recommendations. However, as her 
fever improved, her antibiotics regimen was narrowed to 
Vancomycin; she was discharged on 10 days of IV Vancomycin, with 
PICC for cellulitis (see below.) Her pain was treated with 
Tylenol, Ibuprofen and Ultram. 
.
# L arm cellulitis: Ms. ___ had extensive R arm cellulitis that 
spread outside of previously marked borders over her first day 
of stay but improved on Vanc/Zosyn/Clindamycin, and continued to 
improve when she was narrowed to Vanc. The nidus of infection 
was thought to be her vaccination. Extensive imaging was done 
(see result section) to look for gas or abscess, but was all 
negative. The cellulitis was thought to be secondary to seeding 
at the vaccination site. As described above, she was initially 
treated with Vanc, Zosyn, Clinda but this was narrowed to Vanc 
alone for discharge.   
.  
# Hyponatriemia: The patient was initially hyponatremic in the 
setting of hypovolemia; this resolved with fluid repletion. 
.  
# Transaminitis: The patient had a mild transaminitis in the 
setting of some mild epigastric pain. A RUQ U/S was negative. 
These elevated markers were thought to be due to muscle 
inflammation secondary to her cellulitis; they downtrended prior 
to discharge. 
 
Medications on Admission:
ibuprofen 600-800mg TID prn  
levofloxacin 750mg daily (Rx ___ with vaccines in case of 
fever, patient never took this)  
imitrex ___ prn migraine  
 
Discharge Medications:
1. ibuprofen 400 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for pain/fever.
Disp:*30 Tablet(s)* Refills:*0*
2. tramadol 50 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain.
Disp:*30 Tablet(s)* Refills:*0*
3. vancomycin in D5W 1 gram/200 mL Piggyback Sig: One (1) GM 
Intravenous Q 12H (Every 12 Hours) for 10 days: Last dose 
___.
Disp:*20 grams* Refills:*0*
4. Imitrex ___ mg Tablet Sig: ___ Tablets PO ONCE as needed for 
headache.  
5. multivitamin with iron     Tablet Sig: One (1) Tablet PO once 
a day.  
6. Outpatient Lab Work
Please obtain weekly CBC, chem 7 and LFTs and fax to infectious 
disease nurses at ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: Cellulitis
Secondary Diagnoses: Mild myositis, fever, leukocytosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because you had muscle pain 
with headache and fever as well as arm pain and swelling, after 
receiving several vaccinations.

We were initially concern for meningitis but you had a normal 
lumbar puncture. You also had a normal chest x-ray and 
urinalysis.

We think that your systemic symptoms and fevers were likely due 
to cellulitis secondary to the vaccination.

We performed several imaging studies to look at your cellulitis, 
which showed inflammation but no damage to your muscles or 
bones.

Please make the following changes to your medications:
1) Start taking vancomycin 1gm IV every 12 hours, and the home 
infusion company will help you with these doses
2) Tramadol 50mg by mouth every 4 hours as needed for pain
3) Ibuprofen 400mg by mouth every 8 hours as needed for pain

Please go to all of the following appointments as listed below 
and call infectious disease outpatient antibiotics treatment 
clinic to set up an appointment within ___ days. The home nurses 
___ also be obtaining weekly labwork and faxing to the 
infectious disease nurses. 
 
Followup Instructions:
___